US07361677B2
4-[(4-Benzyloxy-3,5-dichloro-benzyl)-[1,2,4]triazol-4-yl-amino]-benzonitrile (CAB02119, STX434)
Sodium hydride (60%, 200 mg, 5.0 mmol) was added to a solution of 4-([1,2,4]triazol-4-ylamino)-benzonitrile (926 mg, 5.0 mmol) in DMF (20 mL) at r.t. The mixture was stirred for 1 h at this temperature and 2-benzyloxy-5-bromomethyl-1,3-dichloro-benzene (CAB02118, 1.73 g, 5.0 mmol) was added. The reaction mixture was stirred overnight and ethyl acetate (75 mL) was added. The mixture was transferred into a separation funnel and washed with water (2×100 mL) and brine (20 mL). The organic layer was dried over sodium sulphate and concentrated under reduced pressure. The residue was suspended in 2-propanol (20 mL) and heated to reflux for 5 minutes. The white solid was filtered off after cooling to room temperature and dried under high vacuum. Yield: 1.76 g (78%).

reactant | Sodium hydride | 5.0 mmol, 200 mg | [H-].[Na+]
reactant | 4-([1,2,4]triazol-4-ylamino)-benzonitrile | 5.0 mmol, 926 mg | N=1N=CN(C1)NC1=CC=C(C#N)C=C1 | C9H7N5
reactant | 2-benzyloxy-5-bromomethyl-1,3-dichloro-benzene | 5.0 mmol, 1.73 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1Cl)CBr)Cl | C14H11BrCl2O
reactant | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 4-[(4-Benzyloxy-3,5-dichloro-benzyl)-[1,2,4]triazol-4-yl-amino]-benzonitrile | C(C1=CC=CC=C1)OC1=C(C=C(CN(C2=CC=C(C#N)C=C2)N2C=NN=C2)C=C1Cl)Cl | C23H17Cl2N5O
